* A44 actual analog core with fixed TT timed behavioral SAR control.
.options method=gear reltol=1e-4 abstol=1e-13 vntol=1e-7 trtol=7 chgtol=1e-15 rshunt=1e12
.include /foss/pdks/gf180mcuD/libs.tech/ngspice/design.ngspice
.option seed=44
.param sw_stat_global=0 sw_stat_mismatch=1 mc_skew=3 res_mc_skew=3 cap_mc_skew=3 fnoicor=0
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice statistical
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice mimcap_typical
.include /foss/designs/A44_CMP_XM5_XM6_W8P2524_XM7_XM11_W16P8587_MC200_PVT_FULLSTATIC_20260728_R1/03_FULL255_STATIC/cases/S044_TT/netlists/core/subckts/SWITCH_BOOT_SP_native_extracted.subckt.spice
.include /foss/designs/A44_CMP_XM5_XM6_W8P2524_XM7_XM11_W16P8587_MC200_PVT_FULLSTATIC_20260728_R1/03_FULL255_STATIC/cases/S044_TT/netlists/candidate/Comparator_StrongARM_CURRENT.subckt.spice
.include /foss/designs/A44_CMP_XM5_XM6_W8P2524_XM7_XM11_W16P8587_MC200_PVT_FULLSTATIC_20260728_R1/03_FULL255_STATIC/cases/S044_TT/models/no_r6_equivalent_loads.inc
.subckt CDAC_P_S044 VIN CLKS VTOP DCTRL7 DCTRL6 DCTRL5 DCTRL4 DCTRL3 DCTRL2 DCTRL1 VREFP VDD GND VREFN
XM1 VBOT1 DCTRL1 VREFN GND nfet_03v3 L=0.28u W=1.56u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=2
XM2 VBOT1 DCTRL1 VREFP VDD pfet_03v3 L=0.28u W=1.56u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=2
XC1 VTOP VBOT1 cap_mim_2f0_m4m5_noshield c_width=6.855e-6 c_length=6.855e-6 m=1.0209602299787097
XM3 VBOT2 DCTRL2 VREFN GND nfet_03v3 L=0.28u W=1.56u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=4
XM4 VBOT2 DCTRL2 VREFP VDD pfet_03v3 L=0.28u W=1.56u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=4
XC2 VTOP VBOT2 cap_mim_2f0_m4m5_noshield c_width=6.855e-6 c_length=6.855e-6 m=2.0078119820407347
XM5 VBOT3 DCTRL3 VREFN GND nfet_03v3 L=0.28u W=1.56u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=8
XM6 VBOT3 DCTRL3 VREFP VDD pfet_03v3 L=0.28u W=1.56u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=8
XC3 VTOP VBOT3 cap_mim_2f0_m4m5_noshield c_width=6.855e-6 c_length=6.855e-6 m=3.9970607298354279
XM7 VBOT4 DCTRL4 VREFN GND nfet_03v3 L=0.28u W=1.56u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=16
XM8 VBOT4 DCTRL4 VREFP VDD pfet_03v3 L=0.28u W=1.56u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=16
XC4 VTOP VBOT4 cap_mim_2f0_m4m5_noshield c_width=6.855e-6 c_length=6.855e-6 m=8.0009565491446946
XM9 VBOT5 DCTRL5 VREFN GND nfet_03v3 L=0.28u W=1.56u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=32
XM10 VBOT5 DCTRL5 VREFP VDD pfet_03v3 L=0.28u W=1.56u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=32
XC5 VTOP VBOT5 cap_mim_2f0_m4m5_noshield c_width=6.855e-6 c_length=6.855e-6 m=15.993899203404311
XM11 VBOT6 DCTRL6 VREFN GND nfet_03v3 L=0.28u W=1.56u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=64
XM12 VBOT6 DCTRL6 VREFP VDD pfet_03v3 L=0.28u W=1.56u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=64
XC6 VTOP VBOT6 cap_mim_2f0_m4m5_noshield c_width=6.855e-6 c_length=6.855e-6 m=32.058978234500231
XM13 VBOT7 DCTRL7 VREFN GND nfet_03v3 L=0.28u W=1.56u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=128
XM14 VBOT7 DCTRL7 VREFP VDD pfet_03v3 L=0.28u W=1.56u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=128
XC7 VTOP VBOT7 cap_mim_2f0_m4m5_noshield c_width=6.855e-6 c_length=6.855e-6 m=63.924429985488672
XC8 VTOP GND cap_mim_2f0_m4m5_noshield c_width=6.855e-6 c_length=6.855e-6 m=1.0061334225130438
x1 CLKS VDD GND VTOP VIN SWITCH_BOOT_SP
.ends CDAC_P_S044
.subckt CDAC_N_S044 VIN CLKS VTOP DCTRL7 DCTRL6 DCTRL5 DCTRL4 DCTRL3 DCTRL2 DCTRL1 VREFP VDD GND VREFN
XM1 VBOT1 DCTRL1 VREFN GND nfet_03v3 L=0.28u W=1.56u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=2
XM2 VBOT1 DCTRL1 VREFP VDD pfet_03v3 L=0.28u W=1.56u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=2
XC1 VTOP VBOT1 cap_mim_2f0_m4m5_noshield c_width=6.855e-6 c_length=6.855e-6 m=1.0104378934227838
XM3 VBOT2 DCTRL2 VREFN GND nfet_03v3 L=0.28u W=1.56u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=4
XM4 VBOT2 DCTRL2 VREFP VDD pfet_03v3 L=0.28u W=1.56u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=4
XC2 VTOP VBOT2 cap_mim_2f0_m4m5_noshield c_width=6.855e-6 c_length=6.855e-6 m=2.0104987477597085
XM5 VBOT3 DCTRL3 VREFN GND nfet_03v3 L=0.28u W=1.56u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=8
XM6 VBOT3 DCTRL3 VREFP VDD pfet_03v3 L=0.28u W=1.56u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=8
XC3 VTOP VBOT3 cap_mim_2f0_m4m5_noshield c_width=6.855e-6 c_length=6.855e-6 m=3.9988763885788936
XM7 VBOT4 DCTRL4 VREFN GND nfet_03v3 L=0.28u W=1.56u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=16
XM8 VBOT4 DCTRL4 VREFP VDD pfet_03v3 L=0.28u W=1.56u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=16
XC4 VTOP VBOT4 cap_mim_2f0_m4m5_noshield c_width=6.855e-6 c_length=6.855e-6 m=7.9851913725612373
XM9 VBOT5 DCTRL5 VREFN GND nfet_03v3 L=0.28u W=1.56u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=32
XM10 VBOT5 DCTRL5 VREFP VDD pfet_03v3 L=0.28u W=1.56u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=32
XC5 VTOP VBOT5 cap_mim_2f0_m4m5_noshield c_width=6.855e-6 c_length=6.855e-6 m=16.029745883576751
XM11 VBOT6 DCTRL6 VREFN GND nfet_03v3 L=0.28u W=1.56u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=64
XM12 VBOT6 DCTRL6 VREFP VDD pfet_03v3 L=0.28u W=1.56u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=64
XC6 VTOP VBOT6 cap_mim_2f0_m4m5_noshield c_width=6.855e-6 c_length=6.855e-6 m=31.995831189523056
XM13 VBOT7 DCTRL7 VREFN GND nfet_03v3 L=0.28u W=1.56u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=128
XM14 VBOT7 DCTRL7 VREFP VDD pfet_03v3 L=0.28u W=1.56u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=128
XC7 VTOP VBOT7 cap_mim_2f0_m4m5_noshield c_width=6.855e-6 c_length=6.855e-6 m=63.903812644833359
XC8 VTOP GND cap_mim_2f0_m4m5_noshield c_width=6.855e-6 c_length=6.855e-6 m=0.999069802895585
x1 CLKS VDD GND VTOP VIN SWITCH_BOOT_SP
.ends CDAC_N_S044

.subckt SAR_ADC_ACTIVE VDD GND VREFP VREFN VINP VINN CLKS CMPCK
+ DCTRLP7 DCTRLP6 DCTRLP5 DCTRLP4 DCTRLP3 DCTRLP2 DCTRLP1
+ DCTRLN7 DCTRLN6 DCTRLN5 DCTRLN4 DCTRLN3 DCTRLN2 DCTRLN1
+ DCMPP DCMPN VRESP VRESN
XCDACP VINP CLKS VRESP DCTRLP7 DCTRLP6 DCTRLP5 DCTRLP4 DCTRLP3 DCTRLP2 DCTRLP1 VREFP VDD GND VREFN CDAC_P_S044
XCDACN VINN CLKS VRESN DCTRLN7 DCTRLN6 DCTRLN5 DCTRLN4 DCTRLN3 DCTRLN2 DCTRLN1 VREFP VDD GND VREFN CDAC_N_S044
XCMP CMPCK DCMPP VRESP DCMPN VRESN VDD GND Comparator_StrongARM
.ends SAR_ADC_ACTIVE

.temp 27
VVDD vdd 0 3.3
VVREFP_ID vrefp_src 0 2.5
RVREFP vrefp_src vrefp {REF_R_EQ}
RVREFP_ESR vrefp vrefp_cap {REF_ESR_EQ}
CVREFP_LOCAL vrefp_cap 0 {REF_CLOCAL_EQ}
CVREFP_LINE vrefp 0 {REF_CLINE_EQ}
VVREFN_ID vrefn_src 0 0.8
RVREFN vrefn_src vrefn {REF_R_EQ}
RVREFN_ESR vrefn vrefn_cap {REF_ESR_EQ}
CVREFN_LOCAL vrefn_cap 0 {REF_CLOCAL_EQ}
CVREFN_LINE vrefn 0 {REF_CLINE_EQ}

VVINP_ID vinp_src 0 PWL(
+ 0 0.806645625 4.99999e-07 0.806645625 5e-07 0.806645625 9.99999e-07 0.806645625
+ 1e-06 1.650005 1.499999e-06 1.650005 1.5e-06 1.650005 1.999999e-06 1.650005
+ 2e-06 2.493364375 2.499999e-06 2.493364375 2.5e-06 2.493364375
+ )
VVINN_ID vinn_src 0 PWL(
+ 0 2.493354375 4.99999e-07 2.493354375 5e-07 2.493354375 9.99999e-07 2.493354375
+ 1e-06 1.649995 1.499999e-06 1.649995 1.5e-06 1.649995 1.999999e-06 1.649995
+ 2e-06 0.806635625 2.499999e-06 0.806635625 2.5e-06 0.806635625
+ )
RVINP vinp_src vinp {VIN_R_EQ}
CVINP vinp 0 {VIN_CP_EQ+VIN_CCM_EQ}
RVINN vinn_src vinn {VIN_R_EQ}
CVINN vinn 0 {VIN_CN_EQ+VIN_CCM_EQ}
CVIN_DIFF vinp vinn {VIN_CDM_EQ}

VCLKS_ID clks_src 0 PULSE(0 3.3 5e-08 {CLK_TR_EQ} {CLK_TF_EQ} 125n 5e-07)
RCLKS clks_src clks {CLK_R_EQ}
CCLKS clks 0 {CLK_C_EQ}

XCORE vdd 0 vrefp vrefn vinp vinn clks cmpck
+ dctrlp7 dctrlp6 dctrlp5 dctrlp4 dctrlp3 dctrlp2 dctrlp1
+ dctrln7 dctrln6 dctrln5 dctrln4 dctrln3 dctrln2 dctrln1
+ dcmpp dcmpn vresp vresn SAR_ADC_ACTIVE
E_SAMPLE_DIFF sampled_diff 0 vresp vresn 1
E_INPUT_DIFF input_diff 0 vinp vinn 1

CLOGIC_P dcmpp 0 {CLOGIC_IN_P}
CLOGIC_N dcmpn 0 {CLOGIC_IN_N}
A_CLKS [clks] [clks_d] adc_logic_in
A_DCMPP [dcmpp] [dcmpp_d] adc_logic_in
A_DCMPN [dcmpn] [dcmpn_d] adc_logic_in
ABEH [clks_d dcmpp_d dcmpn_d]
+ [cmpck_d
+ dctrlp7_d dctrlp6_d dctrlp5_d dctrlp4_d dctrlp3_d dctrlp2_d dctrlp1_d
+ dctrln7_d dctrln6_d dctrln5_d dctrln4_d dctrln3_d dctrln2_d dctrln1_d
+ dout7_d dout6_d dout5_d dout4_d dout3_d dout2_d dout1_d dout0_d
+ eoc_d
+ invalid7_d invalid6_d invalid5_d invalid4_d invalid3_d invalid2_d invalid1_d invalid0_d
+ timeout7_d timeout6_d timeout5_d timeout4_d timeout3_d timeout2_d timeout1_d timeout0_d
+ complete_d] sar_logic_beh

A_CMPCK [cmpck_d] [cmpck_drv] dac_cmpck
A_DCTRLP [dctrlp7_d dctrlp6_d dctrlp5_d dctrlp4_d dctrlp3_d dctrlp2_d dctrlp1_d]
+ [dctrlp7_drv dctrlp6_drv dctrlp5_drv dctrlp4_drv dctrlp3_drv dctrlp2_drv dctrlp1_drv] dac_dctrl
A_DCTRLN [dctrln7_d dctrln6_d dctrln5_d dctrln4_d dctrln3_d dctrln2_d dctrln1_d]
+ [dctrln7_drv dctrln6_drv dctrln5_drv dctrln4_drv dctrln3_drv dctrln2_drv dctrln1_drv] dac_dctrl
A_DOUT [dout7_d dout6_d dout5_d dout4_d dout3_d dout2_d dout1_d dout0_d]
+ [dout7_drv dout6_drv dout5_drv dout4_drv dout3_drv dout2_drv dout1_drv dout0_drv] dac_dout
A_STATUS [eoc_d invalid0_d timeout0_d complete_d] [eoc invalid0 timeout0 complete] dac_status

R_CMPCK cmpck_drv cmpck {CMPCK_R_EQ}
R_DCTRLP7 dctrlp7_drv dctrlp7 {DCTRL_R_EQ}
R_DCTRLP6 dctrlp6_drv dctrlp6 {DCTRL_R_EQ}
R_DCTRLP5 dctrlp5_drv dctrlp5 {DCTRL_R_EQ}
R_DCTRLP4 dctrlp4_drv dctrlp4 {DCTRL_R_EQ}
R_DCTRLP3 dctrlp3_drv dctrlp3 {DCTRL_R_EQ}
R_DCTRLP2 dctrlp2_drv dctrlp2 {DCTRL_R_EQ}
R_DCTRLP1 dctrlp1_drv dctrlp1 {DCTRL_R_EQ}
R_DCTRLN7 dctrln7_drv dctrln7 {DCTRL_R_EQ}
R_DCTRLN6 dctrln6_drv dctrln6 {DCTRL_R_EQ}
R_DCTRLN5 dctrln5_drv dctrln5 {DCTRL_R_EQ}
R_DCTRLN4 dctrln4_drv dctrln4 {DCTRL_R_EQ}
R_DCTRLN3 dctrln3_drv dctrln3 {DCTRL_R_EQ}
R_DCTRLN2 dctrln2_drv dctrln2 {DCTRL_R_EQ}
R_DCTRLN1 dctrln1_drv dctrln1 {DCTRL_R_EQ}

R_DOUT7 dout7_drv dout7_rx {DOUT_R_EQ}
R_DOUT6 dout6_drv dout6_rx {DOUT_R_EQ}
R_DOUT5 dout5_drv dout5_rx {DOUT_R_EQ}
R_DOUT4 dout4_drv dout4_rx {DOUT_R_EQ}
R_DOUT3 dout3_drv dout3_rx {DOUT_R_EQ}
R_DOUT2 dout2_drv dout2_rx {DOUT_R_EQ}
R_DOUT1 dout1_drv dout1_rx {DOUT_R_EQ}
R_DOUT0 dout0_drv dout0_rx {DOUT_R_EQ}
C_DOUT7 dout7_rx 0 {DOUT_C_EQ}
C_DOUT6 dout6_rx 0 {DOUT_C_EQ}
C_DOUT5 dout5_rx 0 {DOUT_C_EQ}
C_DOUT4 dout4_rx 0 {DOUT_C_EQ}
C_DOUT3 dout3_rx 0 {DOUT_C_EQ}
C_DOUT2 dout2_rx 0 {DOUT_C_EQ}
C_DOUT1 dout1_rx 0 {DOUT_C_EQ}
C_DOUT0 dout0_rx 0 {DOUT_C_EQ}

.model adc_logic_in adc_bridge in_low=0.99 in_high=2.31 rise_delay=1p fall_delay=1p
.model dac_cmpck dac_bridge input_load=10f t_rise={CMPCK_TR_EQ} t_fall={CMPCK_TF_EQ} out_low=0 out_high=3.3
.model dac_dctrl dac_bridge input_load=10f t_rise={DCTRL_TR_EQ} t_fall={DCTRL_TF_EQ} out_low=0 out_high=3.3
.model dac_dout dac_bridge input_load=10f t_rise={DOUT_TR_EQ} t_fall={DOUT_TF_EQ} out_low=0 out_high=3.3
.model dac_status dac_bridge input_load=1f t_rise=0.05n t_fall=0.05n out_low=0 out_high=3.3
.model sar_logic_beh d_cosim simulation="/foss/designs/A44_CMP_XM5_XM6_W8P2524_XM7_XM11_W16P8587_MC200_PVT_FULLSTATIC_20260728_R1/03_FULL255_STATIC/cases/S044_TT/models/SAR_LOGIC_BEH_TT_3P3_27C.so" delay=1p

.save v(cmpck) v(vresp) v(vresn) v(vinp) v(vinn) v(sampled_diff) v(input_diff)
+ v(dout7_rx) v(dout6_rx) v(dout5_rx) v(dout4_rx) v(dout3_rx) v(dout2_rx) v(dout1_rx) v(dout0_rx)
+ v(complete) v(invalid0) v(timeout0)
.control
set noaskquit
set plotwinsize=0
tran 5e-10 2.995e-06 0 5e-11
meas tran f000_d7 find v(dout7_rx) at=4.8e-07
meas tran f000_d6 find v(dout6_rx) at=4.8e-07
meas tran f000_d5 find v(dout5_rx) at=4.8e-07
meas tran f000_d4 find v(dout4_rx) at=4.8e-07
meas tran f000_d3 find v(dout3_rx) at=4.8e-07
meas tran f000_d2 find v(dout2_rx) at=4.8e-07
meas tran f000_d1 find v(dout1_rx) at=4.8e-07
meas tran f000_d0 find v(dout0_rx) at=4.8e-07
meas tran f000_complete find v(complete) at=4.8e-07
meas tran f000_invalid find v(invalid0) at=4.8e-07
meas tran f000_timeout find v(timeout0) at=4.8e-07
meas tran f000_sampled find v(sampled_diff) at=1.7e-07
meas tran f000_input find v(input_diff) at=1.7e-07
meas tran f000_tcomplete when v(complete)=1.65 rise=1
meas tran f001_d7 find v(dout7_rx) at=9.8e-07
meas tran f001_d6 find v(dout6_rx) at=9.8e-07
meas tran f001_d5 find v(dout5_rx) at=9.8e-07
meas tran f001_d4 find v(dout4_rx) at=9.8e-07
meas tran f001_d3 find v(dout3_rx) at=9.8e-07
meas tran f001_d2 find v(dout2_rx) at=9.8e-07
meas tran f001_d1 find v(dout1_rx) at=9.8e-07
meas tran f001_d0 find v(dout0_rx) at=9.8e-07
meas tran f001_complete find v(complete) at=9.8e-07
meas tran f001_invalid find v(invalid0) at=9.8e-07
meas tran f001_timeout find v(timeout0) at=9.8e-07
meas tran f001_sampled find v(sampled_diff) at=6.7e-07
meas tran f001_input find v(input_diff) at=6.7e-07
meas tran f001_tcomplete when v(complete)=1.65 rise=2
meas tran f002_d7 find v(dout7_rx) at=1.48e-06
meas tran f002_d6 find v(dout6_rx) at=1.48e-06
meas tran f002_d5 find v(dout5_rx) at=1.48e-06
meas tran f002_d4 find v(dout4_rx) at=1.48e-06
meas tran f002_d3 find v(dout3_rx) at=1.48e-06
meas tran f002_d2 find v(dout2_rx) at=1.48e-06
meas tran f002_d1 find v(dout1_rx) at=1.48e-06
meas tran f002_d0 find v(dout0_rx) at=1.48e-06
meas tran f002_complete find v(complete) at=1.48e-06
meas tran f002_invalid find v(invalid0) at=1.48e-06
meas tran f002_timeout find v(timeout0) at=1.48e-06
meas tran f002_sampled find v(sampled_diff) at=1.17e-06
meas tran f002_input find v(input_diff) at=1.17e-06
meas tran f002_tcomplete when v(complete)=1.65 rise=3
meas tran f003_d7 find v(dout7_rx) at=1.98e-06
meas tran f003_d6 find v(dout6_rx) at=1.98e-06
meas tran f003_d5 find v(dout5_rx) at=1.98e-06
meas tran f003_d4 find v(dout4_rx) at=1.98e-06
meas tran f003_d3 find v(dout3_rx) at=1.98e-06
meas tran f003_d2 find v(dout2_rx) at=1.98e-06
meas tran f003_d1 find v(dout1_rx) at=1.98e-06
meas tran f003_d0 find v(dout0_rx) at=1.98e-06
meas tran f003_complete find v(complete) at=1.98e-06
meas tran f003_invalid find v(invalid0) at=1.98e-06
meas tran f003_timeout find v(timeout0) at=1.98e-06
meas tran f003_sampled find v(sampled_diff) at=1.67e-06
meas tran f003_input find v(input_diff) at=1.67e-06
meas tran f003_tcomplete when v(complete)=1.65 rise=4
meas tran f004_d7 find v(dout7_rx) at=2.48e-06
meas tran f004_d6 find v(dout6_rx) at=2.48e-06
meas tran f004_d5 find v(dout5_rx) at=2.48e-06
meas tran f004_d4 find v(dout4_rx) at=2.48e-06
meas tran f004_d3 find v(dout3_rx) at=2.48e-06
meas tran f004_d2 find v(dout2_rx) at=2.48e-06
meas tran f004_d1 find v(dout1_rx) at=2.48e-06
meas tran f004_d0 find v(dout0_rx) at=2.48e-06
meas tran f004_complete find v(complete) at=2.48e-06
meas tran f004_invalid find v(invalid0) at=2.48e-06
meas tran f004_timeout find v(timeout0) at=2.48e-06
meas tran f004_sampled find v(sampled_diff) at=2.17e-06
meas tran f004_input find v(input_diff) at=2.17e-06
meas tran f004_tcomplete when v(complete)=1.65 rise=5
meas tran f005_d7 find v(dout7_rx) at=2.98e-06
meas tran f005_d6 find v(dout6_rx) at=2.98e-06
meas tran f005_d5 find v(dout5_rx) at=2.98e-06
meas tran f005_d4 find v(dout4_rx) at=2.98e-06
meas tran f005_d3 find v(dout3_rx) at=2.98e-06
meas tran f005_d2 find v(dout2_rx) at=2.98e-06
meas tran f005_d1 find v(dout1_rx) at=2.98e-06
meas tran f005_d0 find v(dout0_rx) at=2.98e-06
meas tran f005_complete find v(complete) at=2.98e-06
meas tran f005_invalid find v(invalid0) at=2.98e-06
meas tran f005_timeout find v(timeout0) at=2.98e-06
meas tran f005_sampled find v(sampled_diff) at=2.67e-06
meas tran f005_input find v(input_diff) at=2.67e-06
meas tran f005_tcomplete when v(complete)=1.65 rise=6
quit
.endc
.end
